US07223766B2
To a solution of 2-fluoro-5-chlorobenzamidine (1.95 g, 11.27 mmol, 1.1 eq) in EtOH (20 ml) was added a solution of 2-methyl-5-oxo cyclopentanecarboxylic acid ethyl ester (prepared according to Wang, C.; Gu, X.; Yu, M. S.; Curran, D. P.: Tetrahedron, 1998, 29, 8355-8370; 1.60 g, 10.26 mmol, 1 eq) in ethanol (5 ml). The reaction mixture was heated to 80° C. overnight. The reaction mixture was cooled to rt and the solvent was removed in vacuo to give a crude residue which was purified by recrystallization from hot ethyl acetate to give 2-(5-chloro-2-fluorophenyl)-5-methyl-6,7-dihydro-5H-cyclopentapyrimidin-4-ol (1.0 g, 35%) as a white crystalline solid and the filtrate was further purified by flash column chromatography to give another 850 mg of 2-(5-chloro-2-fluorophenyl)-5-methyl-6,7-dihydro-5H-cyclopentapyrimidin-4-ol.

reactant | 2-fluoro-5-chlorobenzamidine | 11.27 mmol, 1.95 g, 1.1 eq | FC1=C(C(=N)N)C=C(C=C1)Cl | C7H6ClFN2
reactant | 2-methyl-5-oxo cyclopentanecarboxylic acid ethyl ester | 10.26 mmol, 1.60 g, 1 eq | C(C)OC(=O)C1C(CCC1=O)C | C9H14O3
solvent | EtOH | 20 ml | CCO | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-(5-chloro-2-fluorophenyl)-5-methyl-6,7-dihydro-5H-cyclopentapyrimidin-4-ol | 1.0 g, 35% | ClC=1C=CC(=C(C1)C1=NC2=C(C(=N1)O)C(CC2)C)F | C14H12ClFN2O
